### PR TITLE
[Merged by Bors] - feat(Counterexamples): the space ω₁

### PR DESCRIPTION
**Pull request by juanjomadrigal**
Introduce the `ω₁` ordinal space that, when given the order topology, may be used to build some nice counterexamples in general topology, namely

- A subspace of a paracompact space need not be paracompact
- The product of two normal spaces need not be normal
- A subspace of a normal space need not be normal
- A regular space need not be normal

This PR introduces the basic definitions and order-theoretic properties, in order to have a good set of tools to work with. 

---

Subsequent commits / PRs would roughly cover:

- Topology definitions in that space
- Compactness (and non-compactness) properties
- Countability properties
- Non-metrizability
- Each of the properties above

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by plp127** [comment]
I would normally write what you define here as `SΩC` as simply `Set.Iic (ω_ 1)` instead (with namespace `Ordinal` open), which inherits the linear ordering and the order topology from the ordinals. What's the reason to introduce a definition, why can't we just write it like that?

**Comment by plp127** [comment]
Can you update your PR description to have some text above the `---` line? The part of the PR description above that line is used for the commit message when the PR is merged, so now you've left that empty which isn't a very good commit message.

File: Counterexamples/Omega1Space.lean [hunk 1]
```diff
@@ -0,0 +1,70 @@
...
+def Ω : SΩC := ⊤
+
+/-- The section below an element. -/
+def sec : SΩC → Set SΩC := Set.Iio
+
+/-- $S_Ω$, as a set. -/
+def SΩ_ : Set SΩC := sec Ω
+
+/-- $S_Ω$, as a type. -/
+@[reducible] def SΩ : Type := SΩ_
```
Comment (felixpernegger) [inline Counterexamples/Omega1Space.lean]: FYI you can almost always use `abbrev` instead of `@[reducible] def` (although this def is redundant anyways probably)

**Comment by juanjomadrigal** [comment]
@plp127 @felixpernegger thank you very much for your suggestions, they may make the code simpler. I'll check it and upload some changes 🙌

File: Counterexamples/Omega1Space.lean (hunk 1 above)
Comment (juanjomadrigal) [reply Counterexamples/Omega1Space.lean]: I have changed the definitions to `abbrev`s, much cleaner. I have still left them so that the content to follow will be easier to read.

**Comment by juanjomadrigal** [comment]
@plp127 I have pushed a new commit with the approach you suggest and now it is much cleaner. Also changed the PR description.

File: Counterexamples/Omega1Space.lean [hunk 2]
```diff
@@ -0,0 +1,52 @@
...
+theorem uncountable_section : ¬ SΩ.Countable := by
+  grind only [!countable_section_iff_lt_omega]
+
+instance : Uncountable SΩ := by
+  rw [uncountable_iff_not_countable]
+  exact uncountable_section
+
+/-- Each proper section of $S_Ω$ is countable. -/
+theorem countable_section (x : SΩ) : (sec x).Countable := by
+  grind only [= Set.mem_Iio, !countable_section_iff_lt_omega]
```
Comment (FrankieNC) [inline Counterexamples/Omega1Space.lean]: Since this follows directly from the lemma above, `grind` isn't needed:
```suggestion
  (countable_section_iff_lt_omega x).mpr x.2
```

File: Counterexamples/Omega1Space.lean [hunk 3]
```diff
@@ -0,0 +1,52 @@
...
+
+/-- The set $\overline{S_Ω}$. -/
+abbrev SΩC : Set Ordinal := Set.Iic Ω
+
+/-- The section below an element. -/
+abbrev sec : Ordinal → Set Ordinal := Set.Iio
+
+
+private lemma countable_section_iff_lt_omega (x : Ordinal) : (sec x).Countable <-> x < Ω := by
+  rw [<- Cardinal.le_aleph0_iff_set_countable]
```
Comment (FrankieNC) [inline Counterexamples/Omega1Space.lean]: please use ↔ and ← here instead of the ASCII versions

File: Counterexamples/Omega1Space.lean [hunk 4]
```diff
@@ -0,0 +1,52 @@
...
+  simp [-Ordinal.lift_card, Cardinal.lt_omega_iff_card_lt]
+
+/-- $S_Ω$ is uncountable. -/
+theorem uncountable_section : ¬ SΩ.Countable := by
+  grind only [!countable_section_iff_lt_omega]
```
Comment (FrankieNC) [inline Counterexamples/Omega1Space.lean]: `grind` isn't needed here, `simp` closes it directly:
```suggestion
  simp [countable_section_iff_lt_omega]
```

File: Counterexamples/Omega1Space.lean [hunk 5]
```diff
@@ -0,0 +1,52 @@
...
+/-- The set $S_Ω$ -/
+abbrev SΩ : Set Ordinal := Set.Iio Ω
+
+/-- The set $\overline{S_Ω}$. -/
+abbrev SΩC : Set Ordinal := Set.Iic Ω
+
+/-- The section below an element. -/
+abbrev sec : Ordinal → Set Ordinal := Set.Iio
+
+
```
Comment (FrankieNC) [inline Counterexamples/Omega1Space.lean:38]: Stray blank line
```suggestion
```

File: Counterexamples/Omega1Space.lean (hunk 3 above)
Comment (FrankieNC) [reply Counterexamples/Omega1Space.lean]:
```suggestion
private lemma countable_section_iff_lt_omega (x : Ordinal) : (sec x).Countable ↔ x < Ω := by
  rw [← Cardinal.le_aleph0_iff_set_countable]
```

File: Counterexamples/Omega1Space.lean [hunk 6]
```diff
@@ -0,0 +1,52 @@
...
+-/
+
+open scoped Cardinal Ordinal
+
+namespace Omega1Space
+
+/-- The greatest element `Ω`. -/
+noncomputable abbrev Ω : Ordinal := ω₁
+
+/-- The set $S_Ω$ -/
```
Comment (FrankieNC) [inline Counterexamples/Omega1Space.lean]: For consistency. 
```suggestion
/-- The set $S_Ω$. -/
```

**Comment by juanjomadrigal** [comment]
@FrankieNC thank you very much for the suggestions! :raised_hands:

File: Counterexamples/Omega1Space.lean [hunk 7]
```diff
@@ -0,0 +1,51 @@
...
+theorem uncountable_section : ¬ SΩ.Countable := by
+  simp [countable_section_iff_lt_omega]
+
+instance : Uncountable SΩ := by
+  rw [uncountable_iff_not_countable]
+  exact uncountable_section
+
+/-- Each proper section of $S_Ω$ is countable. -/
+theorem countable_section (x : SΩ) : (sec x).Countable := by
+  (countable_section_iff_lt_omega x).mpr x.2
```
Comment (FrankieNC) [inline Counterexamples/Omega1Space.lean]: Sorry! I left a stray `by`. This should pass CI now.
```suggestion
theorem countable_section (x : SΩ) : (sec x).Countable :=
  (countable_section_iff_lt_omega x).mpr x.2
```

File: Counterexamples/Omega1Space.lean [hunk 8]
```diff
@@ -0,0 +1,51 @@
...
+
+* [J. Munkres, *Topology*][Munkres2000]
+-/
+
+open scoped Cardinal Ordinal
+
+namespace Omega1Space
+
+/-- The greatest element `Ω`. -/
+noncomputable abbrev Ω : Ordinal := ω₁
```
Comment (vihdzp) [inline Counterexamples/Omega1Space.lean]: I don't think we need an `abbrev` for what already has a two-character notation.

File: Counterexamples/Omega1Space.lean [hunk 9]
```diff
@@ -0,0 +1,51 @@
...
+
+/-- The set $S_Ω$. -/
+abbrev SΩ : Set Ordinal := Set.Iio Ω
+
+/-- The set $\overline{S_Ω}$. -/
+abbrev SΩC : Set Ordinal := Set.Iic Ω
+
+/-- The section below an element. -/
+abbrev sec : Ordinal → Set Ordinal := Set.Iio
```
Comment (vihdzp) [inline Counterexamples/Omega1Space.lean]: Similarly here. I think you should open the `Set` namespace and simply write `Iio ω₁`, etc.

File: Counterexamples/Omega1Space.lean [hunk 10]
```diff
@@ -0,0 +1,51 @@
...
+theorem uncountable_section : ¬ SΩ.Countable := by
+  simp [countable_section_iff_lt_omega]
+
+instance : Uncountable SΩ := by
+  rw [uncountable_iff_not_countable]
+  exact uncountable_section
+
+/-- Each proper section of $S_Ω$ is countable. -/
+theorem countable_section (x : SΩ) : (sec x).Countable :=
+  (countable_section_iff_lt_omega x).mpr x.2
```
Comment (vihdzp) [inline Counterexamples/Omega1Space.lean]: These are all trivial consequences of theorems that exist in more general forms. I would rather rework this PR into proving some of the properties you list out in your PR description, rather than just listing out easy corollaries.

**Review by vihdzp — CHANGES_REQUESTED** [review]

File: Counterexamples/Omega1Space.lean (hunk 10 above)
Comment (juanjomadrigal) [reply Counterexamples/Omega1Space.lean]: I have some additional content on compactness, should I upload it? 
Regarding that of the `abbrev`s, yes, perhaps it makes little sense, I'll change it.
Thanks!

Comment (vihdzp) [reply Counterexamples/Omega1Space.lean]: I think you should upload it :) I'll gladly review that material.

Comment (juanjomadrigal) [reply Counterexamples/Omega1Space.lean]: Hi,
I have been tidying up what I had locally, and it seems that there is not that much content that is directly related to the main counterexamples. Also all counterexamples basically follow from a main result, so I have uploaded everything. 
I had been working in some other exercises in the book of Munkres whose results are not strictly needed (e.g. SΩ not compact but limit-point compact and so on), not sure if it is interesting to include them here.

Comment (vihdzp) [reply Counterexamples/Omega1Space.lean]: Might be interesting to include that, but I think this already works as a self-contained PR.

File: Counterexamples/Omega1Space.lean [hunk 11]
```diff
@@ -0,0 +1,157 @@
...
+def inc : SΩ → SΩC := inclusion Iio_subset_Iic_self
+
+lemma inc_embedding : Topology.IsEmbedding inc := Topology.IsEmbedding.inclusion Iio_subset_Iic_self
+lemma inc_continuous : Continuous inc := inc_embedding.continuous
+
+lemma inc_prod_embedding :
+    Topology.IsEmbedding (fun (p : SΩ × SΩC) => (inc p.1, p.2)) :=
+  inc_embedding.prodMap Topology.IsEmbedding.id
+
+lemma countable_section_iff_lt_omega (x : Ordinal) : (Iio x).Countable ↔ x < Ω := by
```
Comment (vihdzp) [inline Counterexamples/Omega1Space.lean]: I think this (alongside the variants for Set.Finite and less-equal) could go in the Ordinal files themselves.

File: Counterexamples/Omega1Space.lean [hunk 12]
```diff
@@ -0,0 +1,157 @@
...
+/-! Lemmas on countability and compactness. -/
+
+lemma uncountable_section : ¬ SΩ.Countable := by simp [countable_section_iff_lt_omega]
+
+instance : Uncountable SΩ := by rw [uncountable_iff_not_countable]; exact uncountable_section
+
+lemma countable_section (x : SΩ) : (Iio x : Set Ordinal).Countable :=
+  (countable_section_iff_lt_omega x).mpr x.2
+
+lemma Ω_succ_limit : Order.IsSuccLimit Ω := Cardinal.isSuccLimit_omega 1
```
Comment (vihdzp) [inline Counterexamples/Omega1Space.lean]: I think this can be inlined.

File: Counterexamples/Omega1Space.lean [hunk 13]
```diff
@@ -0,0 +1,157 @@
...
+
+instance : Nontrivial SΩC :=
+  nontrivial_of_ne ⊥ ⊤ (fun h => Ω_succ_limit.bot_lt.ne (Subtype.ext_iff.mp h))
+
+lemma no_max {s : Ordinal} (h : s < Ω) : ∃ a, s < a ∧ a < Ω :=
```
Comment (vihdzp) [inline Counterexamples/Omega1Space.lean]: This just seems like a restatement of the fact w_1 is a successor limit.

File: Counterexamples/Omega1Space.lean [hunk 14]
```diff
@@ -0,0 +1,157 @@
...
+  ⟨s + 1, Order.lt_succ s, Ω_succ_limit.succ_lt h⟩
+
+lemma countable_bounded (T : Set SΩ) (hT : T.Countable) : ∃ b, b < Ω ∧ ∀ a ∈ T, a ≤ b := by
+  by_contra h; push Not at h
+  exact uncountable_section ((hT.biUnion fun a _ => countable_section a).mono
+    fun x hx => let ⟨a, haT, hxa⟩ := h x hx; mem_biUnion haT hxa)
+
+lemma exists_lub_of_seq (s : ℕ → Ordinal) (hs : ∀ n, s n < Ω) :
```
Comment (vihdzp) [inline Counterexamples/Omega1Space.lean]: Pretty sure there's a lemma somewhere in the Cardinal/Regular file that says the supremum of a countable family of countable ordinals is countable.

File: Counterexamples/Omega1Space.lean [hunk 15]
```diff
@@ -0,0 +1,157 @@
...
+    (Topology.IsInducing.subtypeVal.tendsto_nhds_iff.mpr htf).prodMk_nhds
+      (Topology.IsInducing.subtypeVal.tendsto_nhds_iff.mpr
+        (htf.comp (Filter.tendsto_add_atTop_nat 1)))
+  obtain ⟨n, hn⟩ := (htprod.eventually (hU.mem_nhds (hAU rfl))).exists
+  exact hβ2 (seq n) hn
+
+instance SΩC_prod_paracompact : ParacompactSpace (SΩC × SΩC) := inferInstance
+instance SΩC_prod_normal : NormalSpace (SΩC × SΩC) := inferInstance
+
+/-! A subspace of a paracompact space need not be paracompact. -/
```
Comment (vihdzp) [inline Counterexamples/Omega1Space.lean]: I think these docstrings should go on the theorem itself. (That is, start with /-- instead)

**Review by vihdzp — COMMENTED** [review]
More suggestions on top of the previous ones.

**Comment by juanjomadrigal** [comment]
@vihdzp thanks a lot for the comments.

I've pushed three commits with different fixes:

- In 6125b5ee80b1111fe5e4dc61bca363a4c43ac52f, I adapt the content to work with a fixed universe. It was previously set `ω₁ : Ordinal.{0}`; that was needed for the instance synthesis in the main theorem, but now, with a couple of annotations, it works well in the more general setting.
- I was keeping the notation `Ω` mainly to avoid having `ω₁ : Ordinal.{0}` inlined, but since this is no longer needed, in 8aa3f9214a08f478852ed409e73aca749a312787 I have removed the abbreviations for `Ω`, `SΩ` and `SΩC`, also in the names.
- In bc51ec8a2e4c2cf5323fcd5fb91313a0771e347d I have addressed the issues mentioned in the review above. Removing `exists_lub_of_seq` and using an existing theorem (and working with sup instead of lub) has  made it possible to remove many other things.

File: Counterexamples/Omega1Space.lean [hunk 16]
```diff
@@ -21,137 +21,103 @@ We follow [Munkres2000], where this space is denoted `S_Ω`.
...
 
-instance : Nontrivial SΩC :=
-  nontrivial_of_ne ⊥ ⊤ (fun h => Ω_succ_limit.bot_lt.ne (Subtype.ext_iff.mp h))
+instance : Nontrivial (Iic ω₁) :=
+  nontrivial_of_ne ⊥ ⊤ (fun h => (Cardinal.isSuccLimit_omega _).bot_lt.ne (Subtype.ext_iff.mp h))
 
-lemma no_max {s : Ordinal} (h : s < Ω) : ∃ a, s < a ∧ a < Ω :=
-  ⟨s + 1, Order.lt_succ s, Ω_succ_limit.succ_lt h⟩
+lemma isCompact_Iic_ω₁ : IsCompact (Iic ω₁) :=
+  by simp only [← Icc_bot, bot_eq_zero', isCompact_Icc];
```
Comment (vihdzp) [inline Counterexamples/Omega1Space.lean]:
```suggestion
  by simp only [← Icc_bot, bot_eq_zero, isCompact_Icc];
```

File: Counterexamples/Omega1Space.lean [hunk 17]
```diff
@@ -21,137 +21,103 @@ We follow [Munkres2000], where this space is denoted `S_Ω`.
...
 
-lemma exists_lub_of_seq (s : ℕ → Ordinal) (hs : ∀ n, s n < Ω) :
-    ∃ b, b < Ω ∧ IsLUB (range s) b := by
-  obtain ⟨b', hb'Ω, hb'⟩ :=
-    countable_bounded (range fun n => (⟨s n, hs n⟩ : SΩ)) (countable_range _)
-  have hub : b' ∈ upperBounds (range s) := by rintro _ ⟨n, rfl⟩; exact hb' _ ⟨n, rfl⟩
-  exact ⟨wellFounded_lt.min (upperBounds (range s)) ⟨b', hub⟩,
-    lt_of_le_of_lt (not_lt.mp (wellFounded_lt.not_lt_min _ hub)) hb'Ω,
-    wellFounded_lt.min_mem _ ⟨b', hub⟩, fun u hu => not_lt.mp (wellFounded_lt.not_lt_min _ hu)⟩
+/-! Main theorem: `Iio ω₁ × Iic ω₁` is not normal. -/
```
Comment (vihdzp) [inline Counterexamples/Omega1Space.lean]: Perhaps? You're only documenting a single theorem.
```suggestion
/-- Main theorem: `Iio ω₁ × Iic ω₁` is not normal. -/
```

File: Counterexamples/Omega1Space.lean [hunk 18]
```diff
@@ -21,137 +21,103 @@ We follow [Munkres2000], where this space is denoted `S_Ω`.
...
+/-! Lemmas on compactness. -/
 
-instance : Nontrivial SΩC :=
-  nontrivial_of_ne ⊥ ⊤ (fun h => Ω_succ_limit.bot_lt.ne (Subtype.ext_iff.mp h))
+instance : Nontrivial (Iic ω₁) :=
+  nontrivial_of_ne ⊥ ⊤ (fun h => (Cardinal.isSuccLimit_omega _).bot_lt.ne (Subtype.ext_iff.mp h))
 
-lemma no_max {s : Ordinal} (h : s < Ω) : ∃ a, s < a ∧ a < Ω :=
-  ⟨s + 1, Order.lt_succ s, Ω_succ_limit.succ_lt h⟩
+lemma isCompact_Iic_ω₁ : IsCompact (Iic ω₁) :=
```
Comment (vihdzp) [inline Counterexamples/Omega1Space.lean]:
```suggestion
lemma isCompact_Iic_omega_one : IsCompact (Iic ω₁) :=
```

File: Counterexamples/Omega1Space.lean [hunk 19]
```diff
@@ -0,0 +1,123 @@
...
+  nontrivial_of_ne ⊥ ⊤ (fun h => (Cardinal.isSuccLimit_omega _).bot_lt.ne (Subtype.ext_iff.mp h))
+
+lemma isCompact_Iic_ω₁ : IsCompact (Iic ω₁) :=
+  by simp only [← Icc_bot, bot_eq_zero', isCompact_Icc];
+
+instance : CompactSpace (Iic ω₁) := isCompact_iff_compactSpace.mp isCompact_Iic_ω₁
+
+/-! Main theorem: `Iio ω₁ × Iic ω₁` is not normal. -/
+
+theorem prod_Iio_ω₁_Iic_ω₁_not_normal : ¬ NormalSpace (Iio.{u+1} ω₁ × Iic.{u+1} ω₁) := by
```
Comment (vihdzp) [inline Counterexamples/Omega1Space.lean]:
```suggestion
theorem not_normalSpace_Iio_prod_Iic_omega_one : ¬ NormalSpace (Iio.{u+1} ω₁ × Iic.{u+1} ω₁) := by
```
You can generalize the universes of this theorem (by putting each factor in a different universe).

File: Counterexamples/Omega1Space.lean [hunk 20]
```diff
@@ -0,0 +1,123 @@
...
+  have htprod : Filter.Tendsto (fun n => ((seq n, inc (seq (n + 1))) : Iio ω₁ × Iic ω₁))
+      Filter.atTop (𝓝 (⟨b, hbω₁⟩, inc ⟨b, hbω₁⟩)) :=
+    (Topology.IsInducing.subtypeVal.tendsto_nhds_iff.mpr htf).prodMk_nhds
+      (Topology.IsInducing.subtypeVal.tendsto_nhds_iff.mpr
+        (htf.comp (Filter.tendsto_add_atTop_nat 1)))
+  obtain ⟨n, hn⟩ := (htprod.eventually (hU.mem_nhds (hAU rfl))).exists
+  exact hβ2 (seq n) hn
+
+instance Iic_ω₁_prod_paracompact : ParacompactSpace (Iic ω₁ × Iic ω₁) := inferInstance
+instance Iic_ω₁_prod_normal : NormalSpace (Iic ω₁ × Iic ω₁) := inferInstance
```
Comment (vihdzp) [inline Counterexamples/Omega1Space.lean]: I think these instances can stay unnamed.
```suggestion
instance : ParacompactSpace (Iic ω₁ × Iic ω₁) := inferInstance
instance : NormalSpace (Iic ω₁ × Iic ω₁) := inferInstance
```

File: Counterexamples/Omega1Space.lean [hunk 21]
```diff
@@ -0,0 +1,123 @@
...
+
+/-- A subspace of a paracompact space need not be paracompact. -/
+theorem subspace_of_paracompact_not_paracompact :
```
Comment (vihdzp) [inline Counterexamples/Omega1Space.lean:125]: These last four theorems don't really abide by the naming scheme, but I don't really have suggestions, since you wouldn't prove theorems like this on the main library.

File: Counterexamples/Omega1Space.lean [hunk 22]
```diff
@@ -0,0 +1,123 @@
...
+    ¬ ∀ (X Y : Type (u+1)) [TopologicalSpace X] [TopologicalSpace Y] (f : X → Y),
```
Comment (vihdzp) [inline Counterexamples/Omega1Space.lean]: The universe bump is kind of weird (I understand where it comes from, but it makes this theorem read weirdly). It might be worth proving, as an immediate corollary of your main theorem, that `(ω₁ + 1).ToType × ω₁.ToType` is not paracompact; this would then get rid of the universe bump. You could further generalize `X` and `Y` to be in different universes (it's the same counterexample, after all).

Comment (juanjomadrigal) [reply Counterexamples/Omega1Space.lean]: Yes, it is true that it is weird.
I have pushed a commit to address that. Basically it proves some auxiliary contructions and lemmas to relate ω₁ and ω₁ + 1 with Iio ω₁ and Iic ω₁ respectively, and then uses that to expand the universe restrictions: no +1 needed and also in the case of product or subspace, different universes are considered. The main theorem with Iio ω₁ × Iic ω₁ is stated with the same universes, for the inclusion to be more natural, but then used with a common (max u v).
It seems that ordinals do not have a default instance as topological space, so the development is quite verbose, but perhaps there are results I haven't seen.
Also I have addressed some of the other comments above 🙌

Comment (vihdzp) [reply Counterexamples/Omega1Space.lean]: Ordinals do have a topology defined in `Ordinal/Topology`, but that file is on its way out (I've been working on deprecating/generalizing everything on it). So I would suggest making a local instance of `OrderTopology Ordinal`, proved via `rfl`.

**Comment by j-loreaux** [comment]
@juanjomadrigal can you please go through and click "resolve conversation" for all comments that either you have implemented or for which there has been a back and forth that came to a conclusion? It's very hard to follow the discussion when there are a plethora of unresolved conversations.

File: Counterexamples/Omega1Space.lean (hunk 11 above)
Comment (juanjomadrigal) [reply Counterexamples/Omega1Space.lean]: They were finally not needed 👍

File: Counterexamples/Omega1Space.lean (hunk 22 above)
Comment (juanjomadrigal) [reply Counterexamples/Omega1Space.lean]: I'm not sure I have understood this. I think I said it wrong in the previous comment with "It seems that ordinals do not have a default instance as topological space"; in reality I'm working with `(ω₁).ToType` and `(ω₁ + 1).ToType`, so I have defined

```
noncomputable instance (o : Ordinal) : TopologicalSpace o.ToType := Preorder.topology _
instance (o : Ordinal) : OrderTopology o.ToType := ⟨rfl⟩
```

(which could be made local). Can this benefit from having a topology in `Ordinal` itself?

Comment (plp127) [reply Counterexamples/Omega1Space.lean]: You could instead use `Shrink.{u} (Iio.{u+1} ω₁ × Iic.{u+1} ω₁)`, which does have a topology, and you can use `Shrink.homeomorph` to show it's homeomorphic to `Iio.{u+1} ω₁ × Iic.{u+1} ω₁`.

Comment (vihdzp) [reply Counterexamples/Omega1Space.lean]: Yeah, you should still work with the ordinals themselves, and then just use `Shrink` at the very final step to adjust the universes.

Comment (juanjomadrigal) [reply Counterexamples/Omega1Space.lean]: Interesting!
I have pushed a new version with Shrink and seems to work well. Is more or less that what you had in mind?

File: Counterexamples/Omega1Space.lean [hunk 23]
```diff
@@ -81,50 +81,37 @@ theorem not_normalSpace_Iio_prod_Iic_omega_one.{u} :
...
 With this result, the counterexamples below can be proven for topological spaces X and Y in
-Type (u+1). But since ω₁ and ω₁ + 1 are homeomorphic to Iio ω₁ and Iic ω₁ in bigger universes,
-the results can be made more general.
+Type (u+1). We use Shrink to build versions of Iio.{1} ω₁ and Iic.{1} ω₁ in every universe
+and make the results more general.
 -/
 
-noncomputable instance (o : Ordinal) : TopologicalSpace o.ToType := Preorder.topology _
-instance (o : Ordinal) : OrderTopology o.ToType := ⟨rfl⟩
+abbrev ShIio.{u} := Shrink.{u,0} (Shrink.{0,1} (Iio.{1} ω₁))
```
Comment (vihdzp) [inline Counterexamples/Omega1Space.lean]: It should be enough to write `Shrink.{u} (Iio ω₁)`. I don't think this needs an abbreviation.

File: Counterexamples/Omega1Space.lean [hunk 24]
```diff
@@ -81,50 +81,37 @@ theorem not_normalSpace_Iio_prod_Iic_omega_one.{u} :
...
+  ((Shrink.homeomorph.{0,1} (Iio.{1} ω₁)).trans (Shrink.homeomorph.{u,0} _)).symm
+abbrev ShIic.{u} := Shrink.{u,0} (Shrink.{0,1} (Iic.{1} ω₁))
+noncomputable def homeoIic.{u} : ShIic.{u} ≃ₜ Iic.{1} ω₁ :=
+  ((Shrink.homeomorph.{0,1} (Iic.{1} ω₁)).trans (Shrink.homeomorph.{u,0} _)).symm
 
-noncomputable def orderIso_lift.{u, w} (o : Ordinal.{u}) :
-    o.ToType ≃o (Ordinal.lift.{w, u} o).ToType :=
-  OrderIso.ofRelIsoLT <| Classical.choice <| Ordinal.lift_type_eq.{u, max u w, w}.1 <| by
-    simpa using congrFun Ordinal.lift_umax o
+instance : T2Space ShIio := homeoIio.symm.t2Space
```
Comment (vihdzp) [inline Counterexamples/Omega1Space.lean:100]: I don't think these instances need to be provided explicitly?

File: Counterexamples/Omega1Space.lean (hunk 23 above)
Comment (juanjomadrigal) [reply Counterexamples/Omega1Space.lean]: I'm using `Iio.{1} ω₁` and `Iic.{1} ω₁`(fixed the universe to 1) to use the main theorem with equal universes (I tried to prove it with `Iio.{u} ω₁ × Iic.{v} ω₁` and there are several intermediate problems). So I did the changes in universe `1 -> 0 -> u/v`, that do not work in a single step.

Perhaps for having done it in two steps, with `abbrev` changed to `def` many things fail to synthesize properly, e.g. `TopologicalSpace ShIio/ShIic` is not found.

File: Counterexamples/Omega1Space.lean (hunk 24 above)
Comment (juanjomadrigal) [reply Counterexamples/Omega1Space.lean:100]: I thought the same, but without them, the `inferInstance`s in the last theorems get completely stuck.

File: Counterexamples/Omega1Space.lean (hunk 23 above)
Comment (vihdzp) [reply Counterexamples/Omega1Space.lean]: Any 0-small type is u-small for any u. You don't have to use Shrink twice.

Comment (juanjomadrigal) [reply Counterexamples/Omega1Space.lean]: I have done it with some `Small` instances. They have to be named to use universes; otherwise it is quite clean.

File: Counterexamples/Omega1Space.lean [hunk 25]
```diff
@@ -0,0 +1,150 @@
...
+lemma inc_embedding : Topology.IsEmbedding inc := Topology.IsEmbedding.inclusion Iio_subset_Iic_self
+
+instance : Nontrivial (Iic ω₁) :=
+  nontrivial_of_ne ⊥ ⊤ (fun h => (Cardinal.isSuccLimit_omega _).bot_lt.ne (Subtype.ext_iff.mp h))
+
+instance : CompactSpace (Iic ω₁) :=
+  isCompact_iff_compactSpace.mp (by simp only [← Icc_bot, bot_eq_zero, isCompact_Icc])
+
+/-- Main theorem: `Iio ω₁ × Iic ω₁` is not normal. -/
+theorem not_normalSpace_Iio_prod_Iic_omega_one.{u} :
```
Comment (FrankieNC) [inline Counterexamples/Omega1Space.lean]: Declare `universe u v` once after the `section` line; then the explicit `.{u}` / `.{u, v}` binders here and on the declarations below are all unnecessary.

File: Counterexamples/Omega1Space.lean [hunk 26]
```diff
@@ -0,0 +1,150 @@
...
+      Subtype.coe_lt_coe.mp (lt_of_le_of_lt (le_max_right _ _) hz2)
+    exact ⟨⟨z, hz1⟩, hx, fun hU' => hUV.le_bot ⟨hU', hsub ⟨mem_of_mem_nhds hN1, hcN hc⟩⟩⟩
+  choose β hβ1 hβ2 using hβ_ex
+  let seq : ℕ → Iio ω₁ := Nat.rec ⟨0, (Cardinal.isSuccLimit_omega _).bot_lt⟩ fun _ prev => β prev
+  have hmono : Monotone (fun n => (seq n).1) :=
+    monotone_nat_of_le_succ fun n => (Subtype.coe_lt_coe.mpr (hβ1 (seq n))).le
+  let b := ⨆ i, (seq i).1
+  let hbω₁ := Ordinal.iSup_lt_omega_one (fun n => (seq n).2)
+  have htf : Filter.Tendsto (fun n => (seq n).1) Filter.atTop (𝓝 b) :=
+    tendsto_atTop_ciSup hmono (by use ω₁; grind [upperBounds])
```
Comment (FrankieNC) [inline Counterexamples/Omega1Space.lean]: `grind` isn't needed here:
```suggestion
    tendsto_atTop_ciSup hmono ⟨ω₁, mem_upperBounds.mpr <| forall_mem_range.mpr fun n ↦ (seq n).2.le⟩
```

File: Counterexamples/Omega1Space.lean [hunk 27]
```diff
@@ -0,0 +1,150 @@
...
+    obtain ⟨_, hN1, N2, hN2, hsub⟩ := mem_nhds_prod_iff.mp (hV.mem_nhds (hBV rfl))
+    obtain ⟨c, hcω₁, hcN⟩ := nhds_top_basis.mem_iff.mp hN2
+    obtain ⟨z, hz1, hz2⟩ := (Order.IsSuccLimit.lt_iff_exists_lt (Cardinal.isSuccLimit_omega _)).mp
+      (max_lt x.2 (Subtype.coe_lt_coe.mpr hcω₁))
+    have hx : x < ⟨z, hz1⟩ := Subtype.coe_lt_coe.mp (lt_of_le_of_lt (le_max_left _ _) hz2)
+    have hc : c < inc ⟨z, hz1⟩ :=
+      Subtype.coe_lt_coe.mp (lt_of_le_of_lt (le_max_right _ _) hz2)
+    exact ⟨⟨z, hz1⟩, hx, fun hU' => hUV.le_bot ⟨hU', hsub ⟨mem_of_mem_nhds hN1, hcN hc⟩⟩⟩
+  choose β hβ1 hβ2 using hβ_ex
+  let seq : ℕ → Iio ω₁ := Nat.rec ⟨0, (Cardinal.isSuccLimit_omega _).bot_lt⟩ fun _ prev => β prev
```
Comment (FrankieNC) [inline Counterexamples/Omega1Space.lean]:
```suggestion
  let seq : ℕ → Iio ω₁ := Nat.rec ⟨0, (Cardinal.isSuccLimit_omega _).bot_lt⟩ fun _  ↦ β
```

File: Counterexamples/Omega1Space.lean [hunk 28]
```diff
@@ -0,0 +1,150 @@
...
+  have hβ_ex : ∀ x : Iio ω₁, ∃ y : Iio ω₁, x < y ∧ (x, inc y) ∉ U := by
+    intro x
+    obtain ⟨_, hN1, N2, hN2, hsub⟩ := mem_nhds_prod_iff.mp (hV.mem_nhds (hBV rfl))
+    obtain ⟨c, hcω₁, hcN⟩ := nhds_top_basis.mem_iff.mp hN2
+    obtain ⟨z, hz1, hz2⟩ := (Order.IsSuccLimit.lt_iff_exists_lt (Cardinal.isSuccLimit_omega _)).mp
+      (max_lt x.2 (Subtype.coe_lt_coe.mpr hcω₁))
+    have hx : x < ⟨z, hz1⟩ := Subtype.coe_lt_coe.mp (lt_of_le_of_lt (le_max_left _ _) hz2)
+    have hc : c < inc ⟨z, hz1⟩ :=
+      Subtype.coe_lt_coe.mp (lt_of_le_of_lt (le_max_right _ _) hz2)
+    exact ⟨⟨z, hz1⟩, hx, fun hU' => hUV.le_bot ⟨hU', hsub ⟨mem_of_mem_nhds hN1, hcN hc⟩⟩⟩
```
Comment (FrankieNC) [inline Counterexamples/Omega1Space.lean]: This step is a self-contained fact — above every `x` there is a `y > x` whose pair `(x, inc y)` escapes `U` — so it deserves to be its own private lemma. So that the proof of `not_normalSpace_Iio_prod_Iic_omega_one` is also shorter.

File: Counterexamples/Omega1Space.lean [hunk 29]
```diff
@@ -0,0 +1,150 @@
...
+  choose β hβ1 hβ2 using hβ_ex
+  let seq : ℕ → Iio ω₁ := Nat.rec ⟨0, (Cardinal.isSuccLimit_omega _).bot_lt⟩ fun _ prev => β prev
+  have hmono : Monotone (fun n => (seq n).1) :=
+    monotone_nat_of_le_succ fun n => (Subtype.coe_lt_coe.mpr (hβ1 (seq n))).le
+  let b := ⨆ i, (seq i).1
+  let hbω₁ := Ordinal.iSup_lt_omega_one (fun n => (seq n).2)
```
Comment (FrankieNC) [inline Counterexamples/Omega1Space.lean]: Both `let`s can go: `hbω₁` is a proof, so it should be a `have` with its statement visible, and `b` is then just an abbreviation for the supremum:

```suggestion
  have hbω₁ : ⨆ i, (seq i).1 < ω₁ := Ordinal.iSup_lt_omega_one fun n ↦ (seq n).2
```

with `𝓝 (⨆ i, (seq i).1)` on line 76 and `⟨_, hbω₁⟩` in place of `⟨b, hbω₁⟩` on line 79.

File: Counterexamples/Omega1Space.lean [hunk 30]
```diff
@@ -0,0 +1,150 @@
...
+noncomputable def homeoIic : ShIic ≃ₜ Iic ω₁ := (Shrink.homeomorph (Iic ω₁)).symm
+
+instance : T2Space ShIio := homeoIio.symm.t2Space
+instance : T2Space ShIic := homeoIic.symm.t2Space
+instance : NormalSpace ShIio := homeoIio.symm.normalSpace
+instance : NormalSpace ShIic := homeoIic.symm.normalSpace
+
+noncomputable def homeoIicIic : ShIic ≃ₜ ShIic := homeoIic.trans homeoIic.symm
+instance compactSpace_toType : CompactSpace ShIic := homeoIic.symm.compactSpace
+noncomputable def incT : ShIio → ShIic := homeoIic.symm ∘ inc ∘ homeoIio
```
Comment (FrankieNC) [inline Counterexamples/Omega1Space.lean]: This whole section can be much smaller. The reason `homeoIicIic` and `incT` exist is that the two factors are shrunk separately, so the embedding for the subspace counterexamples has to go between `Shrink`s in different universes. If you shrink the whole product instead, i.e. work with `Shrink.{u} (Iio ω₁ × Iic ω₁)`, the embedding into `Shrink.{v} (Iic ω₁ × Iic ω₁)` is just `Prod.map inc id` conjugated by the two `Shrink.homeomorph`s, and its `IsEmbedding` proof is a short composition of the corresponding `.isEmbedding` facts.

With that, `ShIio`, `ShIic`, `homeoIio`, `homeoIic`, `homeoIicIic`, `incT` and the instances at lines 99–102 and 105 all become unnecessary. This should allow you to remove the import `Mathlib.Topology.Homeomorph.Lemmas`.

After the rework only three instances are needed. The two `Small` instances stay, but they
should be unnamed — the universe binder on the name is redundant, since `u` is auto-bound:

```lean
instance : Small.{u, 1} (Iio ω₁) := small_lift _
instance : Small.{u, 1} (Iic ω₁) := small_lift _
```

The third is `instance : T2Space (Shrink.{u} (Iio ω₁ × Iic ω₁))`, which the paracompactness
counterexample needs: paracompact together with Hausdorff gives normal.

As an aside: these `Small` instances are really cross-universe versions of `Ordinal.small_Iio` / `Ordinal.small_Iic` in `Mathlib/SetTheory/Ordinal/Basic.lean`, which are stated for a single universe only. Perhaps the general form, `Small.{max u v} (Iio o)` for `o : Ordinal.{u}`, would be a nice addition.

**Review by FrankieNC — CHANGES_REQUESTED** [review]

File: Counterexamples/Omega1Space.lean [hunk 31]
```diff
@@ -0,0 +1,150 @@
...
+
+* [J. Munkres, *Topology*][Munkres2000]
+-/
+
+@[expose] public section
+
+namespace Counterexample
+
+open scoped Cardinal Ordinal Topology
+open Set
```
Comment (FrankieNC) [inline Counterexamples/Omega1Space.lean]: Opening `Topology` and `Filter` properly (not just `scoped`) lets you drop the `Topology.`
and `Filter.` prefixes that are qualifying `IsEmbedding`, `IsInducing`, `Tendsto` and
`atTop` throughout:

```suggestion
open Filter Set Topology
open scoped Cardinal Ordinal

**Comment by juanjomadrigal** [comment]
@FrankieNC thank you very much for the suggestions. I have directly applied those suggestions that had all the changed text included and then worked in another commit some of the other comments.

File: Counterexamples/Omega1Space.lean (hunk 25 above)
Comment (juanjomadrigal) [reply Counterexamples/Omega1Space.lean]: Done in a separate commit, much cleaner now.

**Comment by grunweg** [comment]
By the way: when you have addressed all reviewer comments, you can comment `-awaiting-author` to mark your PR as ready for review again.

File: Counterexamples/Omega1Space.lean (hunk 30 above)
Comment (juanjomadrigal) [reply Counterexamples/Omega1Space.lean]: But if we work with `Shrink.{u} (Iio ω₁ × Iic ω₁)`, is still possible to to have different universes in the proof of `product_of_normal_not_normal`?

File: Counterexamples/Omega1Space.lean (hunk 28 above)
Comment (juanjomadrigal) [reply Counterexamples/Omega1Space.lean]: But `U` is an open neighborhood of `A`, which is the diagonal in the product space, and the proof uses disjointness with `V`, so extracting to an auxiliary lemma would be difficult.

**Comment by juanjomadrigal** [comment]
-awaiting-author

File: Counterexamples/Omega1Space.lean (hunk 28 above)
Comment (FrankieNC) [reply Counterexamples/Omega1Space.lean]: The step is more self-contained than it looks: nothing in the block uses `A`, `hA`, `hAU`, or that `U` is open. The only facts it consumes are that `V` is open, that `V` contains the top row, and `Disjoint U V` — so `U` and `V` can be plain set variables:

```lean
private lemma exists_lt_notMem_of_disjoint {U V : Set (Iio ω₁ × Iic ω₁)} (hV : IsOpen V)
    (hV_top : ∀ a : Iio ω₁, (a, ⊤) ∈ V) (hUV : Disjoint U V) (x : Iio ω₁) :
    ∃ y, x < y ∧ (x, inc y) ∉ U
```

Your current block proves this essentially verbatim (with `hV_top x` in place of `hBV rfl`), and the call site becomes

```lean
choose β hβ1 hβ2 using exists_lt_notMem_of_disjoint hV (fun a ↦ hBV rfl) hUV
```

Everything about `A` is only needed later in the main proof, where the limit of the sequence lies on the diagonal and `hAU` gives the contradiction.

File: Counterexamples/Omega1Space.lean (hunk 30 above)
Comment (FrankieNC) [reply Counterexamples/Omega1Space.lean]: Yes, absolutely — to clarify: the idea is to use both kinds of spaces, not to replace one with the other. `product_of_normal_not_normal` keeps the separately shrunk factors; only the three embedding/regularity theorems switch to the shrunk product. Each of the four final theorems simply instantiates whichever witnesses fit its statement.

For `product_of_normal_not_normal` nothing changes from what you have. Refuting the `∀` means exhibiting two normal spaces whose product is not normal, so two separate spaces are needed there in any case, and the witnesses remain `X := Shrink.{u} (Iio ω₁)` and `Y := Shrink.{v} (Iic ω₁)`. The only fact needed is

```lean
theorem not_normalSpace_shrink_Iio_prod_shrink_Iic :
    ¬NormalSpace (Shrink.{u} (Iio ω₁) × Shrink.{v} (Iic ω₁))
```

which follows from the main theorem, since this product is homeomorphic to `Iio ω₁ × Iic ω₁`. There is no embedding anywhere in this theorem — and the embedding is the only source of the universe trouble, because it has to match up `Shrink.{u}` factors with `Shrink.{v}` factors. That's the job `homeoIicIic` is doing in the current version.

For the other three theorems, take `X := Shrink.{u} (Iio ω₁ × Iic ω₁)` and `Y := Shrink.{v} (Iic ω₁ × Iic ω₁)`, again with independent universes. The embedding I meant in my earlier comment is

```lean
lemma isEmbedding_shrink_prodMap_inc_id :
    IsEmbedding (⇑(Shrink.homeomorph (Iic ω₁ × Iic ω₁)) ∘ Prod.map inc id ∘
      ⇑(Shrink.homeomorph (Iio ω₁ × Iic ω₁)).symm : Shrink.{u} _ → Shrink.{v} _)
```

Since this is a single map between the two spaces, the universes never interact. And the facts about `X` — not normal, not paracompact — are just the main theorem transported along `Shrink.homeomorph`.

So you keep the same statements, with `X : Type u` and `Y : Type v` independent everywhere. `ShIio`, `ShIic`, the `homeo*` definitions and their instances all disappear, and the final proofs become one-liners.

File: Counterexamples/Omega1Space.lean (hunk 28 above)
Comment (juanjomadrigal) [reply Counterexamples/Omega1Space.lean]: Yep, that's true. Indeed, I have changed it even more for the lemma to be working only in one dimension, which is then used in the slice. In that one dimension context, the lemma reads very natural.

**Comment by juanjomadrigal** [comment]
-awaiting-author

File: Counterexamples/Omega1Space.lean (hunk 30 above)
Comment (juanjomadrigal) [reply Counterexamples/Omega1Space.lean]: I have pushed a commit that more or less follows these lines and that removes `ShIio` and `ShIic`. It gets shorter and cleaner. There are three instances that maybe should be moved to `Shrink.lean` or a similar file, if needed.

**Review by j-loreaux — COMMENTED** [review]
Thanks!

bors merge
